US04910226
Approximately 750 ml of dry THF was added to a 3-neck round bottom flask equipped with a condenser, argon bubbler and mechanical stirrer. The flask was cooled to 0° C. and lithium aluminum hydride (LAH) (11.39 g, 0.3 mol) was slowly added. After all of the LAH was added, the flask was warmed to room temperature. A solution of methyl androst-4-ene-3-one-17β-carboxylate (66 g, 0.2 mol) in 600 ml of THF was very slowly added to the LAH slurry. After the addition of the steroid, the reaction mixture was slowly warmed to reflux. After 2 hours the excess LAH was quenched with 11.4 ml water, 11.4 ml 15% sodium hydroxide (NaOH) and 28 ml water. The salts were removed by filtration and washed with approximately 1 liter of warm THF. Concentration of the combined organic solutions afforded 63 g (94%) of 17β-(hydroxymethyl)-androst-4-ene-3-ol as mixture of α and β isomers.

reactant | lithium aluminum hydride | 0.3 mol, 11.39 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl androst-4-ene-3-one-17β-carboxylate | 0.2 mol, 66 g | C[C@@]12[C@H](CC[C@H]1[C@@H]1CCC3=CC(CC[C@]3(C)[C@H]1CC2)=O)C(=O)OC | C21H30O3
solvent | THF | 600 ml | C1CCOC1 | C4H8O
solvent | THF | 750 ml | C1CCOC1 | C4H8O
product | 17β-(hydroxymethyl)-androst-4-ene-3-ol | 63 g, 94% | OC[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CCC3=CC(CC[C@]3(C)[C@H]1CC2)O | C20H32O2
